### PR TITLE
feat: add `Bitvec.toFin_twoPow`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.toInt_twoPow` and `BitVec.toFin_twoPow`, completing the `Bitvec.*_twoPow` API.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -3266,6 +3266,12 @@ theorem toNat_twoPow (w : Nat) (i : Nat) : (twoPow w i).toNat = 2^i % 2^w := by
     have h1 : 1 < 2 ^ (w + 1) := Nat.one_lt_two_pow (by omega)
     rw [Nat.mod_eq_of_lt h1, Nat.shiftLeft_eq, Nat.one_mul]
 
+theorem toFin_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toFin = Fin.ofNat' (2 ^ w) (2 ^ i) := by
+  rcases w with rfl | w
+  · simp [BitVec.twoPow, BitVec.toFin, toFin_shiftLeft, Fin.fin_one_eq_zero]
+  · simp [BitVec.twoPow, BitVec.toFin, toFin_shiftLeft, Nat.shiftLeft_eq]
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3274]:
```suggestion
theorem toInt_twoPow {w i : Nat} :
    (BitVec.twoPow w i).toInt = (if w ≤ i then 0 else if i + 1 = w then -1 <<< i else 1 <<< i : Int) := by
  simp only [BitVec.twoPow, BitVec.toInt]
  rcases w with _|w
  · simp
  · by_cases h : w + 1 ≤ i
    · simp [h]; norm_cast; omega
    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow, h]
      have hy : (2 ^ i % 2 ^  (w + 1)) = 2 ^ i := by rw [Nat.mod_eq_of_lt (by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega)]
      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
      norm_cast
      simp only [Nat.shiftLeft_eq, Nat.one_mul, hy, hj]
      by_cases i + 1 =  (w + 1)
      · simp [show i = w by omega]; omega
      · simp [show 2 ^ (i + 1) < 2 ^ (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega]
        omega
```

Let's add this from https://github.com/leanprover/lean4/pull/6949. This will simplify the overflow PR and already get another two theorems merged today.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3274]: (maybe put the `toInt` before the `toFin`?)

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: Indeed. this broke the theorem, I'm working on the fix.
